US07179823B1
Sodium hydride (60%, oily, 60.0 mg) was added to a solution of ethyl 3-(3-ethoxy-1H-pyrazol-4-yl)propionate (318 mg) and 4-chloromethyl-2-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]pyridine (457 mg) in N,N-dimethylformamide (10 ml) at 0° C., and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain ethyl 3-[3-ethoxy-1-[2-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-4-pyridylmethyl]-1H-pyrazol-4-yl]propionate (643 mg, yield: 89%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | Sodium hydride | 60.0 mg | [H-].[Na+]
reactant | ethyl 3-(3-ethoxy-1H-pyrazol-4-yl)propionate | 318 mg | C(C)OC1=NNC=C1CCC(=O)OCC | C10H16N2O3
reactant | 4-chloromethyl-2-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]pyridine | 457 mg | ClCC1=CC(=NC=C1)OCC=1N=C(OC1C)C=1OC=CC1 | C15H13ClN2O3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[3-ethoxy-1-[2-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-4-pyridylmethyl]-1H-pyrazol-4-yl]propionate | 643 mg, yield: 89% | C(C)OC1=NN(C=C1CCC(=O)OCC)CC1=CC(=NC=C1)OCC=1N=C(OC1C)C=1OC=CC1 | C25H28N4O6
